US05324747
A mixture of 1.0 g (6.45 mmol) of 4-nitrocatechol, 4.8 ml (16.1 mmol) of 1-bromotetradecane and 2.5 g (17.4 mmol) of potassium carbonate in 20 ml of acetone and 10 ml of DMF was stirred at reflux under argon for 24 hours. The reaction mixture was filtered while hot and the filtrate was allowed to cool to room temperature and 3.5 g (99% yield, mp 64°-66°) of 3,4-bis(tetradecyloxy) nitrobenzene was obtained by filtration. The structure was confirmed by nmr and mass spectra.

reactant | 4-nitrocatechol | 6.45 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | 1-bromotetradecane | 16.1 mmol, 4.8 ml | BrCCCCCCCCCCCCCC | C14H29Br
reactant | potassium carbonate | 17.4 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3,4-bis(tetradecyloxy) nitrobenzene | 3.5 g, 99% yield | C(CCCCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCCCC)[N+](=O)[O-] | C34H61NO4
